US06608203B2
2,2,2-Trifluoro-1-{6-methoxy-1-[1-(1-methyl-1H-imidazole4-sulfonyl)-piperidin4-yl]-3,4-dihydro-1H-isoquinolin-2-yl}-ethanone
To a stirred solution of 6-methoxy-1-[1-(1-methyl-1H-imidazole-4-sulfonyl)-piperidin-4-yl]-1,2,3,4tetrahydroisoquinoline (0.049 g, 0.126 mmol) and triethylamine (0.135 g, 0.132 mmol) in CH2Cl2 (5 ml) cooled to 0° C. under an atmosphere of N2 was added trifluoroacetic acid anhydride (0.028 g, 0.132 mmol). The reaction mixture was stirred overnight, slowly warming to RT. The reaction was quenched by the addition of water (1 ml) and diluted with CH2Cl2 (5 ml). The layers were separated and the organic layer was further diluted with CH2Cl2 (15 ml), washed with sat. NaHCO3 (2×3 ml) and brine (1×3 ml), dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by radial chromatography (SiO2, 1 mm CH2Cl2 to 2% MeOH/CH2Cl2) to give the desired product as an oil (0.043 g, 0.088 mmol, 71% yield).

reactant | 6-methoxy-1-[1-(1-methyl-1H-imidazole-4-sulfonyl)-piperidin-4-yl]-1,2,3,4tetrahydroisoquinoline | 0.126 mmol, 0.049 g | COC=1C=C2CCNC(C2=CC1)C1CCN(CC1)S(=O)(=O)C=1N=CN(C1)C | C19H26N4O3S
reactant | triethylamine | 0.132 mmol, 0.135 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 0.132 mmol, 0.028 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-{6-methoxy-1-[1-(1-methyl-1H-imidazole4-sulfonyl)-piperidin4-yl]-3,4-dihydro-1H-isoquinolin-2-yl}-ethanone | 0.088 mmol, 0.043 g, 71% yield | FC(C(=O)N1C(C2=CC=C(C=C2CC1)OC)C1CCN(CC1)S(=O)(=O)C=1N=CN(C1)C)(F)F | C21H25F3N4O4S
